US07435830B2
A mixture of 1-oxo-2,8-diaza-spiro[4,5]decane-8-carboxylic acid tert-butyl ester (127 mg, 0.5 mmol, 1 equiv), 4-bromo-1-chloro-2-methoxy-benzene (221 mg, 2equiv), N,N-dimethylethylenediamine (14 mg, 0.3 equiv), CuI (29 mg, 0.3 equiv) and Cs2CO3 (325 mg, 2 equiv) in 1 mL of dioxane were heated at 110° C. overnight and then cooled to room temperature, taken up in a 1:1 mixture of methanol and EtOAc, filtered through a thin pad of celite and concentrated. The crude product was purified by flash column to give 2-(4-Chloro-3-methoxy-phenyl)-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester.

reactant | 1-oxo-2,8-diaza-spiro[4,5]decane-8-carboxylic acid tert-butyl ester | 0.5 mmol, 127 mg, 1 equiv | C(C)(C)(C)OC(=O)N1CCC2(CCNC2=O)CC1 | C13H22N2O3
reactant | 4-bromo-1-chloro-2-methoxy-benzene | 221 mg, 2equiv | BrC1=CC(=C(C=C1)Cl)OC | C7H6BrClO
reactant | N,N-dimethylethylenediamine | 14 mg, 0.3 equiv | CN(CCN)C | C4H12N2
reactant | Cs2CO3 | 325 mg, 2 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 29 mg, 0.3 equiv | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | CO | CH4O
product | 2-(4-Chloro-3-methoxy-phenyl)-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=CC(=C(C=C2)Cl)OC)CC1 | C20H27ClN2O4
